US20010027196A1
To a stirred suspension of 0.50 g (2,49 mmol) 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile in 10 ml toluene under argon at room temperature were added 384 mg (2.74 mmol)p-fluorobenzeneboronic acid, 288 mg (0.25 mmol) tetrakis(triphenyl-phosphine)palladium(O) and 638 mg (4.98 mmol) anhydrous potassium carbonate. The reaction mixture was heated at reflux for 16 h, then cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, and concentrated in vacuo. Chromatography (1/1 ethyl acetate/hexane) followed trituration in ether/hexane afforded 350 mg (54%) 2-amino-4-(4-fluoro-phenyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile as a yellow crystalline solid. EI-MS m/e (%): 260 (M+, 37), 259 ([M—H]+, 100).

reactant | 2-amino-4-chloro-6-methylsulfanyl-pyrimidine-5-carbonitrile | 2,49 mmol, 0.50 g | NC1=NC(=C(C(=N1)Cl)C#N)SC | C6H5ClN4S
reactant | p-fluorobenzeneboronic acid | 2.74 mmol, 384 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 4.98 mmol, 638 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-amino-4-(4-fluoro-phenyl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 350 mg, 54% | NC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C#N)SC | C12H9FN4S
